US04071625
5α-Androstane-3β,17β,19-triol 3,19-diacetate
A tetrahydrofuran solution of 3β,19-dihydroxy-5α-androstan-17-one diacetate is added to lithium tri-t-butoxyaluminum hydride in tetrahydrofuran and the resultant solution stirred overnight at room temperature. Aqueous sodium potassium tartrate is added with stirring until a readily filterable precipitate forms. The filtrate is concentrated under reduced pressure and diluted with ether. The resulting solution is washed with water, dried over magnesium sulfate and the ether removed under vacuum. The residual 5α-androstane-3β,17β,19-triol 3,19-diacetate is crystallized from an acetone-hexane solution.

reactant | 3β,19-dihydroxy-5α-androstan-17-one diacetate | C(C)(=O)O.C(C)(=O)O.O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)CO)=O
reactant | lithium tri-t-butoxyaluminum hydride | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5α-Androstane-3β,17β,19-triol 3,19-diacetate | C(C)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)COC(C)=O)O | C23H36O5
